US03931177
A solution of 3-(3-benzyloxy-4-nitrobenzoyl) propionic acid in 5N ammonium hydroxide was added to a well stirred boiling aqueous solution of ferrous sulphate. The pH was adjusted to 9 with concentrated ammonium hydroxide and the mixture was refluxed for 15 minutes. The filtrate was concentrated under reduced pressure and then neutralised with glacial acetic acid to give 3-(4-amino-3-benzyloxybenzoyl)propionic acid.

reactant | 3-(3-benzyloxy-4-nitrobenzoyl) propionic acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)CCC(=O)O)C=CC1[N+](=O)[O-] | C17H15NO6
solvent | ammonium hydroxide | 5N | [OH-].[NH4+]
product | 3-(4-amino-3-benzyloxybenzoyl)propionic acid | NC1=C(C=C(C(=O)CCC(=O)O)C=C1)OCC1=CC=CC=C1 | C17H17NO4
